US08497264B2
A solution of i-Pr2NH (1100 mL, 7.72 mol) in anhydrous THF (3.5 L) was cooled to −10° C. n-BuLi (2.5 M in hexanes, 3087 mL, 7.72 mol) was added drop wise and the solution was stirred for 10 min at 0° C. The reaction mixture was cooled to −78° C. and a solution of 6-chloro-2-fluoro-3-(methoxymethoxy)pyridine (1344 g, 7.02 mol) in anhydrous THF (2 L) was added slowly, keeping the internal temperature below −60° C. The resulting solution was stirred at −75° C. for 1 hr. A solution of 5-bromo-2-fluorobenzaldehyde (1430 g, 7.02 mol) in THF (1.7 L) was added drowise. After the addition was complete, the reaction mixture was stirred at −75° C. for 30 min. The reaction mixture was warmed to RT and quenched with saturated aqueous NH4Cl solution (3 L). EtOAc (5 L) was added and the mixture was stirred vigorously. After phase separation, the aqueous layer was extracted with EtOAc (3 L×2). The combined organics were washed with brine and dried over anhydrous Na2SO4. The solvent was removed under reduced pressure and the residue was purified by column chromatography (0-10% EtOAc/hexanes) to provide 2128 g of (5-bromo-2-fluorophenyl)(6-chloro-2-fluoro-3-(methoxymethoxy)pyridin-4-yl)methanol as a light yellow solid.

reactant | i-Pr2NH | 7.72 mol, 1100 mL | N(C(C)C)C(C)C | C6H15N
reactant | n-BuLi | 7.72 mol, 2.5 M, 3087 mL | [Li]CCCC
reactant | 6-chloro-2-fluoro-3-(methoxymethoxy)pyridine | 7.02 mol, 1344 g | ClC1=CC=C(C(=N1)F)OCOC | C7H7ClFNO2
reactant | 5-bromo-2-fluorobenzaldehyde | 7.02 mol, 1430 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
solvent | THF | 3.5 L | C1CCOC1 | C4H8O
solvent | THF | 2 L | C1CCOC1 | C4H8O
solvent | THF | 1.7 L | C1CCOC1 | C4H8O
product | (5-bromo-2-fluorophenyl)(6-chloro-2-fluoro-3-(methoxymethoxy)pyridin-4-yl)methanol | 2128 g | BrC=1C=CC(=C(C1)C(O)C1=C(C(=NC(=C1)Cl)F)OCOC)F | C14H11BrClF2NO3
